US05872118
A mixture of 4-fluorophenylmagnesium bromide (82 ml of a 2N solution in ethyl ether, 0.164 mol, Aldrich) and copper(I) iodide (0.310 mg, 1.63 mmol, Aldrich) was stirred for 15 min at -10° C. while blanketed with a nitrogen atmosphere. To this mixture was added a solution of diethyl isopropylidenemalonate (29.6 g, 0.148 mol) in anhydrous diethyl ether (250 ml) in a thin stream with rapid stirring. The resulting solution was stirred at -10° C. for 2 h, at 25° C. for 30 min and then poured with rapid stirring into 0.5 kg of crushed ice containing 30 ml of 12N hydrochloric acid. The layers were separated and the aqueous layer was extracted with ethyl ether (3×400 ml). All ether layers were combined and washed with deionized water (2×25 ml), saturated aqueous sodium bicarbonate (25 ml), and deionized water (25 ml). The etheral layer was concentrated by spin evaporation in vacuo and the residue was distilled to give 25.9 g (59%) of diethyl 2-(2-(4-fluorophenyl)-2-methylethyl)malonate as a clear oil (b.p., 140°-145° C./0.01 mmHg);

reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | diethyl isopropylidenemalonate | 0.148 mol, 29.6 g | C(C)(C)=C(C(=O)OCC)C(=O)OCC | C10H16O4
reactant | hydrochloric acid | 12N | Cl | ClH
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | diethyl ether | 250 ml | C(C)OCC | C4H10O
catalyst | copper(I) iodide | 1.63 mmol, 0.310 mg | [Cu]I
product | diethyl 2-(2-(4-fluorophenyl)-2-methylethyl)malonate | 25.9 g, 59% | FC1=CC=C(C=C1)C(CC(C(=O)OCC)C(=O)OCC)C | C16H21FO4
